USRE029836
4-Hydroxy-3-(3-isoxazolylcarbamoyl)-2-methyl-2H-1,2-benzothiazine 1,1-Dioxide
A mixture of 4.15 g. (0.0155 mole) of 3-carbethoxy-4-hydroxy-2-methyl-2H-1,2-benzothiazine 1,1-dioxide, 1.3 g. (0.0155 mole) of 3-aminoisoxazole, and 500 ml. of xylene was refluxed for 24 hr. in a Soxhlet apparatus, the thimble of which contained 10 g. of Linde 4A molecular sieve. The mixture was cooled to 25° and the resulting crystalline precipitate was collected and washed with ether to give 3.2 g. of product, m.p. 235-240° dec. Recrystallization from 175 ml. of ethyl acetate gave 1.6 g. of material, m.p. 237-240° dec.

reactant | 3-carbethoxy-4-hydroxy-2-methyl-2H-1,2-benzothiazine 1,1-dioxide | 0.0155 mole | C(=O)(OCC)C=1N(S(C2=C(C1O)C=CC=C2)(=O)=O)C | C12H13NO5S
reactant | 3-aminoisoxazole | 0.0155 mole | NC1=NOC=C1 | C3H4N2O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 4-Hydroxy-3-(3-isoxazolylcarbamoyl)-2-methyl-2H-1,2-benzothiazine 1,1-Dioxide | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(NC2=NOC=C2)=O | C13H11N3O5S
